US04788192
A solution of 6-acetylbenzo[b]thiophene-2-sulfonamide (5.1 g, 0.02 mole) in glacial acetic acid (50 ml) and concentrated H2SO4 (20 ml) was stirred and heated to 65° C. Sodium azide (5.0 g, 0.077 mole) was added in portions over a 1 hour period. After heating the mixture at 80° C. for another 3 hours, it was poured into a stirred, saturated NaOAc solution (500 ml) cooled in an ice bath. The resulting mixture was refrigerated overnight. The solid was collected, resuspended in water (300 ml), and recollected to obtain 5.25 g (97%) of crude product, m.p. 214°-217° C. Recrystallizations from CH3OH with charcoal decolorization and from CH3CN afforded 1.5 g of 6-acetamido-2-sulfamoylbenzo[b]thiophene, m.p. 231°-232.5° C.

reactant | 6-acetylbenzo[b]thiophene-2-sulfonamide | 0.02 mole, 5.1 g | C(C)(=O)C=1C=CC2=C(SC(=C2)S(=O)(=O)N)C1 | C10H9NO3S2
reactant | Sodium azide | 0.077 mole, 5.0 g | [N-]=[N+]=[N-].[Na+]
reactant | NaOAc | 500 ml | CC(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
product | 6-acetamido-2-sulfamoylbenzo[b]thiophene | 1.5 g | C(C)(=O)NC=1C=CC2=C(SC(=C2)S(N)(=O)=O)C1 | C10H10N2O3S2
